US07462724B2
2-(4-bromophenyl)-1H-benzimidazole-4-carboxamide
To a mixture of 2,3-diaminobenzamide dihydrochloride (synthesized as described in U.S. Pat. No. 6,737,421, column 11, EXAMPLE 2, step (e), 5 g, 22.3 mmol) and 4-bromobenzaldehyde (4.13 g, 22.3 mmol) in methanol (200 mL) was added 10% Pd/C (1.3 g). The mixture was refluxed overnight, then cooled and filtered though a pad of celite. The filtrate was concentrated under vacuum and purified by chromatography on a silica gel column with 0-10% methanol/dichloromethane to provide the title compound (1.2 g, 17%). MS (ESI) m/e 317 (M+H)+.

reactant | 2,3-diaminobenzamide dihydrochloride | Cl.Cl.NC1=C(C(=O)N)C=CC=C1N
reactant | 4-bromobenzaldehyde | 22.3 mmol, 4.13 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | 2-(4-bromophenyl)-1H-benzimidazole-4-carboxamide | 1.2 g, 17% | BrC1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)N | C14H10BrN3O
